US06667312B2
1-(6-Chlorohexyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (2.5 g, 8 mmol), sodium thiomethoxide (1.13 g, 15.5 mmol) and N,N-dimethylformamide (15 mL) were combined and heated at 160° C. for 3 hours. The reaction was quenched with water and the precipitate isolated to provide 1.5 g of 2-methyl-1-[6-(methylthio)hexyl]-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | 1-(6-Chlorohexyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 8 mmol, 2.5 g | ClCCCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C17H21ClN4
reactant | sodium thiomethoxide | 15.5 mmol, 1.13 g | C[S-].[Na+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2-methyl-1-[6-(methylthio)hexyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.5 g | CC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCCCCSC | C18H24N4S
